US04575452
(III) Preparation of 2,2'-(2,5-thiophenediyl)bis[5-(1,1-dimethylethyl)-7-benzoxazole-sulfonic acid](BBOT-disulfonic acid)
One hundred milliliters of 20% fuming sulfuric acid is charged into a 500 mL Erlenmeyer flask. With magnetic stirring, 60 g of BBOT is added in small portions. The reaction is exothermic. After the addition is complete, the reaction mixture is heated to 90°-100° C. for two hours. The reaction is then quenched by pouring the reaction mixture onto 500 g of crushed ice. A brown product precipitates as a fine powder. The product is collected on a fritted-glass Buchner funnel. The product is then washed by stirring it in 200 mL of 1N hydrochloric acid. Washing is prepared several times. The product is then dried in a vacuum oven at 60°-70° C. Typical yields are 75-80 g (89-93%).

reactant | BBOT | 60 g | CC(C)(C)C1=CC2=C(C=C1)OC(=N2)C3=CC=C(S3)C4=NC5=C(O4)C=CC(=C5)C(C)(C)C | C26H26N2O2S
reactant | sulfuric acid | One hundred milliliters | S(O)(O)(=O)=O | H2O4S
product | 2,2'-(2,5-thiophenediyl)bis[5-(1,1-dimethylethyl)-7-benzoxazole-sulfonic acid] | S1C(=CC=C1C=1OC2=C(N1)C=C(C=C2S(=O)(=O)O)C(C)(C)C)C=2OC1=C(N2)C=C(C=C1S(=O)(=O)O)C(C)(C)C | C26H26N2O8S3
